US07176224B2
A mixture of 2-(m-tolyloxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.095 g, 0.030 mmol), toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester (0.030 mmol) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 3-(4-[2-(2-biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-m-tolyloxy-propionic acid. 1H NMR (400 MHz, CDCl3) δ 8.18–8.17 (m, 1H), 7.92 (d, 1H, J=7.04 Hz), 7.61–7.57 (m, 3H), 7.45–7.36 (m, 3H), 7.31–7.28 (m, 1H), 7.11 (d, 2H, J=8.60 Hz), 7.05 (t, 1H, J=7.82 Hz), 6.82–6.75(m, 3H), 6.65–6.61 (m, 2H), 4.17 (t, 2H, J=6.65 Hz), 3.17 (d, 1H, J=13.69 Hz), 3.06 (d, 1H, J=13.69 Hz), 2.96 (t, 2H, J=6.65 Hz) 2.33 (s, 3H), 2.21 (s, 3H), 1.35 (s, 3H); HRMS (ES+) m/z exact mass calcd for C35H34NO5 548.2437, found 548.2415.

reactant | 2-(m-tolyloxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol, 0.095 g | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC=1C=C(C=CC1)C)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester | 0.030 mmol | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-(4-[2-(2-biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-m-tolyloxy-propionic acid | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(OC=1C=C(C=CC1)C)C)C)C1=CC=CC=C1 | C35H33NO5
